US08809372B2
4-Iodopyridine (15.0 g, 73 mmol) was taken up in dry THF (600 mL) and cooled to 0° C. and then ethylmagnesium bromide (3M solution in THF, 41.8 mL) was gradually added, maintaining the temperature at 0° C. over the period of 30 mins. To the above reaction mixture was then added a solution of ethyl 2-oxopropanoate (12.13 g, 104 mmol) in THF (100 mL). The reaction mixture was stirred at 0° C. for 1 hr. The reaction progress was monitored by TLC using solvent system MeOH:DCM (5:95). After completion of reaction, the reaction mixture was quenched with ice-cold water and extracted with EtOAc (3×1 Lit). The combined organic layers were dried over Na2SO4, and concentrated under vacuum. The crude product residue was combined with a batch of crude product obtained from a second reaction carried out at the same scale, and was purified by column chromatography using silica (100-200 mesh) and solvent system EtOAc:Hexane (4:6) to obtain 7 g (25%) of ethyl 2-hydroxy-2-(pyridin-4-yl)propanoate as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.52 (d, 2H, J=6 Hz), 7.44 (d, 2H, J=6 Hz), 6.2 (s, 1H), 4.08 (q, 2H, J=7.2 Hz), 1.60 (s, 1H), 1.12 (t, 3H, J=7.2 Hz); LC-MS m/z calculated for [M+H]+ 196.09, found 196.2.

reactant | 4-Iodopyridine | 73 mmol, 15.0 g | IC1=CC=NC=C1 | C5H4IN
reactant | ethylmagnesium bromide | 3M, 41.8 mL | C(C)[Mg]Br
reactant | ethyl 2-oxopropanoate | 104 mmol, 12.13 g | O=C(C(=O)OCC)C | C5H8O3
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 2-hydroxy-2-(pyridin-4-yl)propanoate | 7 g, 25% | OC(C(=O)OCC)(C)C1=CC=NC=C1 | C10H13NO3
